US08957070B2
Methyl 3-{[(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)amino]sulfonyl}thiophene-2-carboxylate
To a mixture of 8-amino-2,3,4,9-tetrahydro-1H-carbazol-1-one (0.30 g) and pyridine (8 mL) was added methyl 3-(chlorosulfonyl)thiophene-2-carboxylate (0.43 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.47 g, yield 80%) was obtained as pale-yellow crystals from a fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 239-240° C. (decomposition).

reactant | 8-amino-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.30 g | NC=1C=CC=C2C=3CCCC(C3NC12)=O | C12H12N2O
reactant | methyl 3-(chlorosulfonyl)thiophene-2-carboxylate | 0.43 g | ClS(=O)(=O)C1=C(SC=C1)C(=O)OC | C6H5ClO4S2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 3-{[(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)amino]sulfonyl}thiophene-2-carboxylate | 0.47 g, yield 80% | O=C1CCCC=2C3=CC=CC(=C3NC12)NS(=O)(=O)C1=C(SC=C1)C(=O)OC | C18H16N2O5S2
